US09145415B2
To a suspension of zinc (962 mg) in tetrahydrofuran (25 mL), trimethylsilyl chloride (1 drop) and ethyl bromodifluoroacetate (2.2 mL) were added at room temperature, and the mixture was stirred for 5 minutes under reflux by heating. To the reaction mixture, 3-nitrobenzaldehyde (695 mg) was added, and the mixture was stirred for 30 minutes under reflux by heating. The reaction mixture was cooled to room temperature, and then ethyl acetate and 1.0 mol/L aqueous hydrochloric acid were added to the mixture. The organic layer was separated, washed successively with 1.0 mol/L aqueous hydrochloric acid and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 60% hexane in ethyl acetate) to obtain ethyl 2,2-difluoro-3-hydroxy-3-(3-nitrophenyl)propanoate (C29, 1.02 g).

reactant | 3-nitrobenzaldehyde | 695 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1.0 mol/L | Cl | ClH
reactant | ethyl bromodifluoroacetate | 2.2 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | trimethylsilyl chloride | 1 drop | C[Si](C)(C)Cl | C3H9ClSi
catalyst | zinc | 962 mg | [Zn] | Zn
product | ethyl 2,2-difluoro-3-hydroxy-3-(3-nitrophenyl)propanoate | 1.02 g | FC(C(=O)OCC)(C(C1=CC(=CC=C1)[N+](=O)[O-])O)F | C11H11F2NO5
